US06090813
N-Hydroxysuccinimide (25.3 g) was added to a solution of 1-(t-butoxycarbonyl)piperidine-4-carboxylic acid (45.8 g) in DMF (250 ml) and the mixture stirred at 5° C. EDAC (42 g) was added and the mixture stirred for 4 hours at 5° C. A further portion of EDAC (5.73 g) was added and the mixture allowed to warm to ambient temperature and stirred overnight. The mixture was evaporated to half its original volume and the residue partitioned between ethyl acetate (1000 ml) and water (250 ml). The ethyl acetate phase was separated, washed with water (2×250 ml), brine (50 ml), dried (MgSO4) and evaporated to give a solid which was recrystallised from a mixture of ethyl acetate/hexane (250 ml/500 ml) to give 1-(1-(t-butoxycarbonyl)piperidin-4-ylcarbonyloxy)2,5-dioxopyrrolidine (55 g);

reactant | N-Hydroxysuccinimide | 25.3 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-(t-butoxycarbonyl)piperidine-4-carboxylic acid | 45.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | EDAC | 42 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | EDAC | 5.73 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 1-(1-(t-butoxycarbonyl)piperidin-4-ylcarbonyloxy)2,5-dioxopyrrolidine | 55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)ON1C(CCC1=O)=O | C15H22N2O6
